US03970683
A solution of 1.47 parts of 3(RS)-(tetrahydropyran-2-yl)oxy-1-octyne in 7.1 parts of ether is treated at -40° with 2.6 parts by volume of a 2.3 M butyl lithium in hexane solution. The reaction mixture is stirred at room temperature for 1 hour, then cooled to -40°. 0.267 Part of aluminum trichloride is added and the mixture is stirred at room temperature for 2 hours. After that time, 0.240 part of methyl 3(RS)-hydroxy-5-oxocyclopent-1-eneheptanoate, dissolved in ether, is added and the resulting mixture is stirred at room temperature for about 16 hours. The reaction mixture then is poured into a mixture of 35.5 parts of ether and 20 parts by volume of an aqueous 0.5 N hydrochloric acid solution. The ethereal layer is separated, washed with water, dried over anhydrous sodium sulfate and stripped of solvent. The remaining material is chromatographed on silica gel with 20% ethyl acetate in benzene as eluent to yield, as a stereoisomeric mixture, methyl 3(RS)-hydroxy-2-(3(RS)-[tetrahydropyran-2-yl]oxy-1-octynyl)-5-oxocyclopentane-heptanoate.

reactant | 3(RS)-(tetrahydropyran-2-yl)oxy-1-octyne | O1C(CCCC1)OC(C#C)CCCCC | C13H22O2
reactant | butyl lithium | 2.3 M | C(CCC)[Li]
reactant | aluminum trichloride | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | methyl 3(RS)-hydroxy-5-oxocyclopent-1-eneheptanoate | OC1C=C(C(C1)=O)CCCCCCC(=O)OC | C13H20O4
reactant | hydrochloric acid | 0.5 N | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | ether | CCOCC | C4H10O
product | methyl 3(RS)-hydroxy-2-(3(RS)-[tetrahydropyran-2-yl]oxy-1-octynyl)-5-oxocyclopentane-heptanoate | OC1C(C(C(C1)=O)CCCCCCC(=O)OC)C#CC(CCCCC)OC1OCCCC1 | C26H42O6
